US05098919
N-Methyl-(7-isopropoxycarbonyl-6-methyl-2,3,5,6-tetrahydropyrrolo[2,1-b]thiazol-3-yl)acetamide
To 4.5 g of methyl (7-isopropoxycarbonyl-6-methyl-2,3,5,6- tetrahydropyrrolo[2,1-b]thiazol-3-yl-)acetate was added 100 ml of a 40% aqueous solution of monomethylamine. The mixture was stirred at room temperature for 20 hours. After distilling off the monomethylamine, the residue was extracted with chloroform. The chloroform layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After distilling off the solvent, 4.1 g of the title compound was obtained in the form of a colorless oily product.

reactant | methyl (7-isopropoxycarbonyl-6-methyl-2,3,5,6- tetrahydropyrrolo[2,1-b]thiazol-3-yl-)acetate | 4.5 g | C(C)(C)OC(=O)C=1C(CN2C1SCC2CC(=O)OC)C | C14H21NO4S
reactant | monomethylamine | CN | CH5N
product | N-Methyl-(7-isopropoxycarbonyl-6-methyl-2,3,5,6-tetrahydropyrrolo[2,1-b]thiazol-3-yl)acetamide | 4.1 g | CNC(CC1N2C(SC1)=C(C(C2)C)C(=O)OC(C)C)=O | C14H22N2O3S
